US20010021718A1
tert-Butyl (3R)-3-[({[(Z)-1-amino-2-ethoxy-2-oxoethylidene]amino}oxy)carbonyl]-6-cyclohexylhexanoate
A solution of (2R)-2-[2-(tert-butoxy)-2-oxoethyl]-5-cyclohexylpentanoic acid (Preparation 1) (7.53 g, 25.2 mmol) in 1,4-dioxane (175 ml) was treated with 1 -hydroxybenzotriazole hydrate (3.75 g, 27.8 mmol) and the mixture cooled to 0° C. N,N′-Dicyclohexylcarbodiimide (5.47 g, 26.5 mmol) was then added and the mixture was stirred for 3 hours being allowed to warm to room temperature over this time. The mixture was then filtered and washed with 1,4-dioxane (2×50 ml). The filtrate was then treated with sodium carbonate (4.01 g, 37.8 mmol) and ethyl 2-amino-2-(hydroxyimino)acetate (J.Org.Chem.;23; 1958; 1794) (3.33 g, 25.2 mmol). The resulting mixture was stirred at room temperature for 17 hours. The solvent was removed under reduced pressure and the residue was partitioned between ethyl acetate and water. The layers were separated and the aqueous phase was extracted with ethyl acetate (×2). The combined organic layers were dried over anhydrous magnesium sulphate, filtered and the solvent removed under reduced pressure. The residue was purified by column chromatography on silica gel eluting with a gradient system of ethyl acetate:pentane (30:70) gradually changing to ethyl acetate: pentane (50:50) to afford the title compound as a white solid (6.50 g).

reactant | (2R)-2-[2-(tert-butoxy)-2-oxoethyl]-5-cyclohexylpentanoic acid | 25.2 mmol, 7.53 g | C(C)(C)(C)OC(C[C@H](C(=O)O)CCCC1CCCCC1)=O | C17H30O4
reactant | 1 -hydroxybenzotriazole hydrate | 27.8 mmol, 3.75 g | O.ON1N=NC2=C1C=CC=C2
reactant | N,N′-Dicyclohexylcarbodiimide | 26.5 mmol, 5.47 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | sodium carbonate | 37.8 mmol, 4.01 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethyl 2-amino-2-(hydroxyimino)acetate | 25.2 mmol, 3.33 g | NC(C(=O)OCC)=NO | C4H8N2O3
solvent | 1,4-dioxane | 175 ml | O1CCOCC1 | C4H8O2
product | tert-Butyl (3R)-3-[({[(Z)-1-amino-2-ethoxy-2-oxoethylidene]amino}oxy)carbonyl]-6-cyclohexylhexanoate | 6.50 g | N\C(\C(=O)OCC)=N/OC(=O)[C@@H](CC(=O)OC(C)(C)C)CCCC1CCCCC1 | C21H36N2O6
